Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Keflex / tape plastic
 
Attending: ___.
 
Chief Complaint:
splenic artery aneurysm
 
Major Surgical or Invasive Procedure:
spelenic artery embolization with coiling

 
History of Present Illness:
Ms. ___ is a ___ year old female with borderline diabetes 
who
presented ___ for elective splenic artery aneurysm coiling
with Dr. ___ Dr. ___. Briefly, this aneurysm
was found on ultrasound and then CT in ___. 
 
Past Medical History:
Past Medical History:
Borderline diabetes
HTN
HLD
seasonal allergies
Heart murmur (per record)
R knee trauma

Past Surgical History:
Right ACL reconstruction ×2

 
Social History:
___
Family History:
Family History: noncontributory
 
Physical Exam:
Gen: NAD, A&Ox3
HEENT: Clear
Neck: Supple
CV: RRR
Pulm: no resp distress
Abd: Soft, NT, ND
Ext: 
Neuro: motor and sensory function in extremities grossly intact,
CN II-XII grossly intact
Extremities:
Vascular (___):
R: P//P/P  L: P//P/P

 
Brief Hospital Course:
The splenic artery aneurysm coiling was performed on ___. The
case was uncomplicated and she recovered well from the
procedure. Her post-coiling CTA performed on ___ showed no
flow through the aneurysm and normal enhancement of the splenic
parenchyma. She was discharged on ___ to home. Because of her
spleen appearing normal, she did not have any vaccinations
post-procedure.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 500 mg PO DAILY 
2. Fenofibrate 40 mg PO DAILY 
3. Gabapentin 200 mg PO BID 
4. Aspirin 81 mg PO DAILY 
5. Metoprolol Succinate XL 50 mg PO DAILY 
6. olmesartan-amLODIPin-hcthiazid ___ mg oral DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Ibuprofen 800 mg PO Q8H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Patient is NPO or unable to 
tolerate PO
RX *ibuprofen 800 mg 1 tablet(s) by mouth every 8 hours Disp 
#*20 Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
RX *oxycodone 5 mg 1 - 2 tablet(s) by mouth every 6 horus Disp 
#*15 Tablet Refills:*0 
4.  Aspirin 81 mg PO DAILY  
5.  Fenofibrate 40 mg PO DAILY  
6.  Gabapentin 200 mg PO BID  
7.  MetFORMIN (Glucophage) 500 mg PO DAILY  
8.  Metoprolol Succinate XL 50 mg PO DAILY  
9.  olmesartan-amLODIPin-hcthiazid ___ mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Splenic artery aneurysm

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for 
management of your splenic artery aneurysm. You underwent 
splenic artery embolization with coiling which you tolerated. 
Your post-operative CT scan is re-assuring. You have recovered 
well from the procedure and are now ready for discharge. As you 
go home, please adhere to the following instructions:

MEDICATION: 
• If instructed, take Plavix (Clopidogrel) 75mg once daily 
• Continue all other medications you were taking before surgery, 
unless otherwise directed 
• You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort 

WHAT TO EXPECT: 
• It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
• Drink plenty of fluids and eat small frequent meals 
• It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing 
• To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication 

ACTIVITIES: 
• When you go home, you may walk and use stairs 
• You may shower (let the soapy water run over groin incision, 
rinse and pat dry) 
• Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area 
• No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal) 
• After 1 week, you may resume sexual activity 
• After 1 week, gradually increase your activities and distance 
walked as you can tolerate 
• No driving until you are no longer taking pain medications 

CALL THE OFFICE FOR: ___ 
• Numbness, coldness or pain in lower extremities 
• Temperature greater than 101.5F for 24 hours 
• New or increased drainage from incision or white, yellow or 
green drainage from incisions 
• Bleeding from groin puncture site 

SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site) 
• Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office ___. If bleeding does not stop, call 
___ for transfer to closest Emergency Room. 

Thank you for allowing us to participate in your care. We wish 
you the best as you continue your recovery at home.
 
Followup Instructions:
___